datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:29])([H:30])[H:31])=[C:18]([C:19]([H:32])([H:33])[H:34])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])([H:26])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:26])([H:27])[H:28])([C:17]([H:29])([H:30])[H:31])[C:18]([C:19]([H:32])([H:33])[H:34])[c:20]1[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]1[H:39])[H:8])([H:6])[H:7],71.8811
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:13])[H:6].[C:11]([S:12][H:16])([H:14])[H:15],73.22
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]#[C:8][H:9]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]#[C:8][H:9],0.0
[C:0](=[C:1]([C:2]([O:3][O:4][H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:11]([O:12][O:13][H:16])([H:14])[H:15]>>[C:0]([C:1]([C:2]([O:3][O:4][H:10])([H:8])[H:9])([H:7])[C:11]([O:12][O:13][H:16])([H:14])[H:15])([H:5])[H:6],44.3504
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],100.834
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:19](=[C:20]([H:22])[H:23])[H:21])[H:9],4.184
[C:0]([C:1]([O:2][O:3][H:11])([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:4]([C:5]([H:13])([H:14])[H:15])([O:6][O:7][H:16])[H:12])[H:10])([H:8])[H:9].[O:2][O:3][H:11],63.5968
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[O:15][O:16]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:15][O:16],155.72848
[C:0]([C:1]([C:2]([C:3](=[O:4])[C:5]([O:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]=[O:4])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],46.35872
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31][H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])[H:14])([H:10])([H:11])[H:12].[H:13][O:30][O:31][H:32],62.395992
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:26]([c:27]1[c:28]([H:35])[c:29]([H:36])[c:30]([H:37])[c:31]([H:38])[c:32]1[H:39])([H:33])[H:34])[H:14])([H:12])[H:13],44.2667
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26]([C:27]([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37])([H:34])([H:35])[H:36]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:27]([C:26]([H:34])([H:35])[H:36])([c:28]1[c:29]([H:38])[c:30]([H:39])[c:31]([H:40])[c:32]([H:41])[c:33]1[H:42])[H:37],43.7228
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15]([C:16]([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])([H:24])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:16]([C:15]([H:24])([H:25])[H:26])([C:17]([H:27])([H:28])[H:29])[c:18]1[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]1[H:34])[H:7],23.8488
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([O:9][O:10])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0]([H:2])([H:3])[H:4].[H:1][O:10][O:9][C:8]([C:7]([C:6]([C:5]([H:11])([H:12])[H:13])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19],103.09376
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7](=[C:8]([H:10])[H:11])[H:9]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][C:7](=[C:8]([H:10])[H:11])[H:9],0.0
